US07491735B2
Using general procedure A with methyl 4-aminobenzoate (507 mg, 3.35 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (669 mg, 4.03 mmol) followed by general procedure J afforded 4-[1-((R)-3-amino-1-methyl-propyl)-piperidin-4-ylamino]-benzoic acid methyl ester as a white foam (390 mg, 38% over 2 steps).

reactant | methyl 4-aminobenzoate | 3.35 mmol, 507 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 4.03 mmol, 669 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | 4-[1-((R)-3-amino-1-methyl-propyl)-piperidin-4-ylamino]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)NC1CCN(CC1)[C@@H](CCN)C)=O | C17H27N3O2
